US06660744B1
Sodium hydride (60% dispersion in mineral oil, 3.825 mmol, 153 mg) was added to a suspension of 4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidine (1.0 g, 3.825 mmol) in DMF (5 mL). After 10 min, 2-chloro-3-cyanopyridine (531 mg) was added and the reaction was heated at 60° C. for 16 h. The resulting dark mixture was poured into ice-water (50 mL) and the solid collected by filtration to afford 2-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-3-pyridyl cyanide as a brown solid (1.1 g, 79%); 1H NMR (DMSO-d6, 400 MHz) δ 7.82 (1H, m), 8.29 (1H, s), 8.64 (1H, m) and 8.93 (1H, m); RP-HPLC (Pecosphere, C18, 3 μm, 33×4.6 mm column, 0% to 100% acetonitrile in 50 mM ammonium acetate, buffered to pH 4.5, at 3.5 mL/min) Rt 2.16 min.

reactant | Sodium hydride | 3.825 mmol, 153 mg | [H-].[Na+]
reactant | 4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidine | 3.825 mmol, 1.0 g | NC1=C2C(=NC=N1)NN=C2I | C5H4IN5
reactant | 2-chloro-3-cyanopyridine | 531 mg | ClC1=NC=CC=C1C#N | C6H3ClN2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-3-pyridyl cyanide | 1.1 g, 79% | NC1=C2C(=NC=N1)N(N=C2I)C2=NC=CC=C2C#N | C11H6IN7
